US05614544
A mixture of 5-[3-[4-[1-hydroxy-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione (0.14 g), triethylsilane [(C2H5)3SiH] (0.075 g) and trifluoroacetic acid (2 ml) was stirred at room temperature for 3 hours. The reaction mixture was poured over water, neutralized with an aqueous solution of sodium hydrogen carbonate and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure; the residue was purified by silica gel column chromatography. From the fraction eluted with chloroform-methanol (100:3), 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione (0.11 g, 82%) was obtained, which was then recrystallized from ether-methanol to yield colorless needles having a melting point of 119°-120° C.

reactant | 5-[3-[4-[1-hydroxy-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione | 0.14 g | OC(CCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H26N2O5
reactant | triethylsilane | 0.075 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione | 0.11 g, 82% | CC1=C(N=C(O1)C1=CC=CC=C1)CCCC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H26N2O4
